US04906621
A solution of 2.7 g of cis and trans ethyl 1-ethoxycarbonyl-3-(diethylphosphonomethyl)pyrrolidine-2-carboxylate is heated under reflux with 6N hydrochloric acid for 6 hours to yield 3-(phosphonomethyl)-pyrrolidine-2-carboxylic acid hydrochloride; NMR (D2O): 4.78, 4.40, 3.95, 3.83, 3.72, 3.20, 3.01, 2.78, 2.69 ppm.

reactant | trans ethyl 1-ethoxycarbonyl-3-(diethylphosphonomethyl)pyrrolidine-2-carboxylate | C(C)OC(=O)N1[C@H]([C@@H](CC1)CP(=O)(OCC)OCC)C(=O)OCC | C15H28NO7P
reactant | hydrochloric acid | 6N | Cl | ClH
product | 3-(phosphonomethyl)-pyrrolidine-2-carboxylic acid hydrochloride | Cl.P(=O)(O)(O)CC1C(NCC1)C(=O)O | InChI=1S/C6H12NO5P.ClH/c8-6(9)5-4(1-2-7-5)3-13(10,11)12;/h4-5,7H,1-3H2,(H,8,9)(H2,10,11,12);1H
